US07632850B2
5.4. 3-[(3-chloro-4′-fluoro-1,1′-biphenyl-4-yl)methyl]-1,3-oxazolidine-2,4-dione
A solution of 0.5 g (1.96 mmol) of 3-chloro-4-(chloromethyl)-4′-fluoro-1,1′-biphenyl, prepared in step 5.3., 0.240 g (2.35 mmol) of 1,3-oxazolidine-2,4-dione and 0.45 g (3.92 mmol) of 1,1,3,3-tetramethylguanidine in 10 ml of tetrahydrofuran is refluxed for 18 hours.

reactant | 3-chloro-4-(chloromethyl)-4′-fluoro-1,1′-biphenyl | 1.96 mmol, 0.5 g | ClC=1C=C(C=CC1CCl)C1=CC=C(C=C1)F | C13H9Cl2F
reactant | 1,3-oxazolidine-2,4-dione | 2.35 mmol, 0.240 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | 1,1,3,3-tetramethylguanidine | 3.92 mmol, 0.45 g | CN(C(=N)N(C)C)C | C5H13N3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-[(3-chloro-4′-fluoro-1,1′-biphenyl-4-yl)methyl]-1,3-oxazolidine-2,4-dione | ClC=1C=C(C=CC1CN1C(OCC1=O)=O)C1=CC=C(C=C1)F | C16H11ClFNO3
